US07297697B2
{4-[4-[Bis-(4-fluorophenyl)methyl]piperazin-1-yl]-(E)-but-2-enyloxy}acetic acid dihydrochloride, (IIIa)
To a stirred solution of 4-{4-[bis-(4-fluorophenyl)methyl]piperazin-1-yl}-(E)-but-2-en-1-ol (247.0 g, 0.689 mol) and potassium tert-butoxide (139.2 g, 1.240 mol) in anhydrous tert-butanol (2000 ml), preheated at 60-65° C. for 1 hr. under nitrogen atmosphere, is added dry sodium chloroacetate (160.5 g, 1.378 mol). The reaction mass is then refluxed for further 5 hrs. The mixture is then concentrated under reduced pressure at below 60° C. until tert-butanol is completely removed. The residue is taken up in water (1500 ml) and washed with ethyl acetate (2×1500 ml). The aqueous solution is then acidified to pH 5-6, extracted into dichloromethane (2×750 ml), washed dichloromethane layer with water (300 ml), and concentrated to get crude product as a foamy solid. The crude product is purified by flash column chromatography on silica gel using toluene-methanol (4:1) as mobile phase. The product was converted to its dihydrochloride salt as in example 17.

reactant | 4-{4-[bis-(4-fluorophenyl)methyl]piperazin-1-yl}-(E)-but-2-en-1-ol | 0.689 mol, 247.0 g | FC1=CC=C(C=C1)C(N1CCN(CC1)C/C=C/CO)C1=CC=C(C=C1)F | C21H24F2N2O
reactant | potassium tert-butoxide | 1.240 mol, 139.2 g | CC(C)([O-])C.[K+]
reactant | sodium chloroacetate | 1.378 mol, 160.5 g | ClCC(=O)[O-].[Na+]
solvent | tert-butanol | 2000 ml | C(C)(C)(C)O | C4H10O
product | {4-[4-[Bis-(4-fluorophenyl)methyl]piperazin-1-yl]-(E)-but-2-enyloxy}acetic acid dihydrochloride | Cl.Cl.FC1=CC=C(C=C1)C(N1CCN(CC1)C/C=C/COCC(=O)O)C1=CC=C(C=C1)F | InChI=1S/C23H26F2N2O3.2ClH/c24-20-7-3-18(4-8-20)23(19-5-9-21(25)10-6-19)27-14-12-26(13-15-27)11-1-2-16-30-17-22(28)29;;/h1-10,23H,11-17H2,(H,28,29);2*1H/b2-1+;;
